US05242904
Boc-Gly-Leu-Ala-OBzl was prepared by coupling Boc-Gly-OH (5.70 g, 32.6 mmoles) to H-Leu-Ala-OBzl using the mixed anhydride procedure described in Example 2. The product (13.8 g) was obtained as an amorphous solid. Boc-Gly-Leu-Ala-OBzl was deblocked with trifluoroacetic acid by the procedure described for the preparation of H-Leu-Ala-OBzl except that the trifluoroacetate salt was soluble in ether. The preparation was dissolved in ethyl acetate and treated with anhydrous hydrogen chloride. The resulting product was precipitated by the addition of ether to yield 7.7 g of H-Gly-Leu-Ala-OBzl HCl in a first crop.

reactant | Boc-Gly-Leu-Ala-OBzl | N(CC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C23H35N3O6
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | H-Leu-Ala-OBzl | N[C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)OCC1=CC=CC=C1 | C16H24N2O3
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | H-Gly-Leu-Ala-OBzl HCl | 7.7 g | NCC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)OCC1=CC=CC=C1.Cl | InChI=1S/C18H27N3O4.ClH/c1-12(2)9-15(21-16(22)10-19)17(23)20-13(3)18(24)25-11-14-7-5-4-6-8-14;/h4-8,12-13,15H,9-11,19H2,1-3H3,(H,20,23)(H,21,22);1H/t13-,15-;/m0./s1
